US06022906
9b 1-[4-(3-Iodopropylamino)phenyl]-2-dimethylamino-2-benzyl-butan-1-one
14.5 g (0.041 mol) of 1-[4-(3-Hydroxypropylamino)phenyl]-2-dimethylamino-2-benzyl-butan-1-one, 6.96 g (0.1 mol) of imidazole and 26.8 g (0.1 mol) of triphenyl phosphine are dissolved in 100 ml of methylene chloride. To the solution are added 20.8 g (0.082 mol) of iodine and stirred at room temperature (about 20° C.) for 20 min. 200 ml of methylene chloride are added to the reaction mixture and washed with aqueous solution of sodium sulfite and water, and dried over MgSO4. After distilling off the methylene chloride, the residue is purified by means of column chromatography on silica gel with ethyl acetate-hexane (1:4) as an eluent, and an oily product is obtained. The structure is confirmed by the 1H-NMR spectrum (CDCl3): δ [ppm]: 0.68 (t, 3H), 1.82-1.88 (m, 1H), 2.02-2.35 (m, 3H), 2.35 (s, 6H), 3.17 (d, 1H), 3.20 (d, 1H), 3.27 (t, 2H), 3.34-3.37 (m, 2H), 4.17 (br, 1H), 6.53 (d, 2H), 7.15-7.28 (m, 5H), 8.32 (d, 2H).

reactant | 1-[4-(3-Hydroxypropylamino)phenyl]-2-dimethylamino-2-benzyl-butan-1-one | 0.041 mol, 14.5 g | OCCCNC1=CC=C(C=C1)C(C(CC)(CC1=CC=CC=C1)N(C)C)=O | C22H30N2O2
reactant | imidazole | 0.1 mol, 6.96 g | N1C=NC=C1 | C3H4N2
reactant | triphenyl phosphine | 0.1 mol, 26.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | iodine | 0.082 mol, 20.8 g | II | I2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 1-[4-(3-Iodopropylamino)phenyl]-2-dimethylamino-2-benzyl-butan-1-one | ICCCNC1=CC=C(C=C1)C(C(CC)(CC1=CC=CC=C1)N(C)C)=O | C22H29IN2O
